US07915271B2
To a stirred solution of 2-{4-[2′-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-fluoro-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]piperidin-1-yl}-2-oxoethyl acetate (24 mg, 0.031 mmol) in MeOH (1 mL) under N2 was added sodium methoxide (6.66 mg, 0.031 mmol). The resultant mixture was stirred at room temperature for 15 min. Water (10 mL) was added and the mixture was extracted with EtOAc (3×10 mL). The combined organic fractions were washed with brine (10 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash silica gel chromatography (0-100% EtOAC/hexanes) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-(1-glycoloylpiperidin-4-yl)-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one as a yellow gum. LCMS=737.1 (M+1)+. 1H NMR (CDCl3, 500 MHz, mixture of atropisomers) δ 7.87 (s, 1H), 7.69 (s, 2H), 7.68-7.60 (m, 2H), 7.34-7.30 (m, 1H), 6.96-6.91 (m, 1H), 6.72 (d, J=11.9 Hz, 1H), 5.44 (d, J=7.8 Hz, 1H), 4.90 (d, J=15.8 Hz, 1H), 4.78-4.70 (m, 1H), 4.18-4.13 (m, 2H), 3.78 (s, 3H), 3.62-3.54 (m, 1H), 3.15-3.05 (m, 2H), 2.82-2.73 (m, 1H), 1.96-1.84 (m, 2H), 1.70-1.52 (m, 4H), 0.43-0.39 (m, 3H).

reactant | 2-{4-[2′-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-fluoro-6-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]piperidin-1-yl}-2-oxoethyl acetate | 0.031 mmol, 24 mg | C(C)(=O)OCC(=O)N1CCC(CC1)C=1C=C(C(=CC1F)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C36H32F10N2O6
reactant | sodium methoxide | 0.031 mmol, 6.66 mg | C[O-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-(1-glycoloylpiperidin-4-yl)-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C1CCN(CC1)C(CO)=O)F)OC)C)(F)F | C34H30F10N2O5
